US06281227B1
B. 6-Chloro-benzo[b]thiophene-2-sulfonic acid (2-oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl)-amide
The title compound is prepared as described in EXAMPLE 1, Part K using 6-chloro-benzo[b]thiophene-2-sulfonyl chloride and 3-(S)-amino-1-prop-2-ynyl-pyrrolidin-2-one hydrochloride as starting material. The crude product is isolated as a beige foam and used in the subsequent step without further purification.

reactant | 6-chloro-benzo[b]thiophene-2-sulfonyl chloride | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
reactant | 3-(S)-amino-1-prop-2-ynyl-pyrrolidin-2-one hydrochloride | Cl.N[C@@H]1C(N(CC1)CC#C)=O
product | 6-Chloro-benzo[b]thiophene-2-sulfonic acid (2-oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl)-amide | O=C1N(CC[C@@H]1NS(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)CC#C | C15H13ClN2O3S2
